US06514965B1
When 7-bromo-3(R,S)-tert-butoxycarbonyl-1-ethyl-8-methoxy-2,3,4,5-tetrahydro-1H-1-benzazepine-2-one was treated with bromine in MeOH at ambient temperature, bromination occurred at 3-position of the 1-benzazepine-2-one ring system. In addition, a transesterification due to the presence of methanol was observed which resulted in a formation of 7-bromo-3(R,S)-methoxycarbonyl-1-ethyl-8-methoxy-2,3,4,5-tetrahydro-1H-1-benzazepine-2-one.

reactant | 7-bromo-3(R,S)-tert-butoxycarbonyl-1-ethyl-8-methoxy-2,3,4,5-tetrahydro-1H-1-benzazepine-2-one | BrC=1C(=CC2=C(CCC(C(N2CC)=O)C(=O)OC(C)(C)C)C1)OC | C18H24BrNO4
reactant | bromine | BrBr | Br2
solvent | MeOH | CO | CH4O
product | 7-bromo-3(R,S)-methoxycarbonyl-1-ethyl-8-methoxy-2,3,4,5-tetrahydro-1H-1-benzazepine-2-one | BrC=1C(=CC2=C(CCC(C(N2CC)=O)C(=O)OC)C1)OC | C15H18BrNO4
